US07160881B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-[4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3-yl]-isobutyramide is produced by adding a solution of 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride in dichloromethane dropwise at room temperature to a solution of methyl-[4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3-yl]-amine and triethylamine in dichloromethane. The reaction mixture is stirred for about 1 hour and poured onto 1 N aqueous sodium hydroxide. After extraction, the phases are separated, the aqueous phase extracted with dichloromethane, and the organic phases washed with water. The combined organic extracts are concentrated under reduced pressure, and the solvent is exchanged for ethanol. The solution is seeded with some crystals, water slowly added, and the system stirred at room temperature and then at about 0° C. The precipitate is filtered off, washed with cold ethanol (0° C.) and dried under high vacuum to yield 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-[4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3 -yl]-isobutyramide as an off-white powder.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | methyl-[4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3-yl]-amine | CNC=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CCSCC1 | C17H20FN3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-[4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3 -yl]-isobutyramide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CCSCC1)C)(C)C)(F)F | C29H28F7N3OS
